US04585772
(b) 2-(2-(2-Fluoro-4-nitrophenylamino)-phenyl)-2-imidazoline
A mixture of 8.5 g (33 mmol) of 2-(2-fluoro-4-nitrophenylamino)-benzonitrile and 16.7 ml (249 mmol) of ethylenediamine was heated in an autoclave to 180° for 1 hour, and the reaction mixture was then worked up as described in Example (1a). After crystallisation from dichloromethane and ether/petroleum ether, the reaction product was obtained in a 60% yield.

reactant | 2-(2-fluoro-4-nitrophenylamino)-benzonitrile | 33 mmol, 8.5 g | FC1=C(C=CC(=C1)[N+](=O)[O-])NC1=C(C#N)C=CC=C1 | C13H8FN3O2
reactant | ethylenediamine | 249 mmol, 16.7 ml | C(CN)N | C2H8N2
product | 2-(2-(2-Fluoro-4-nitrophenylamino)-phenyl)-2-imidazoline | 60% yield | FC1=C(C=CC(=C1)[N+](=O)[O-])NC1=C(C=CC=C1)C=1NCCN1 | C15H13FN4O2
